2187-06-21 07:08:00 Physician Resident Progress Note
Chief Complaint: dyspnea
   85yo woman with hx of recent bilat PE, refractory HTN, DM, CKD here
   with worsening DOE.
   24 Hour Events:
 FEVER - 103.1
F - [**2187-6-20**] 04:00 PM  - sent Blood Cx.
   In order to keep BP under control yesterday, increased Metoprolol to 50
   PO BID and titrated Captopril up to 75 mg PO TID.  Also on clonidine.
   Patient's BP was somewhat low overnight - hung around 20cc/hr.
    Patient continues to have dyspnea
 appears to have worsened overnight
   though patient will state that she feels better.  O2 sat dropped to low
   90s on 4L.  O2 inc to 4.5 L and sats returned to high 90s.  She was
   given IV lasix 20 x1 and a sputum cx was ordered.
   Patient denies pain and other complaints.
   Allergies:
   Wellbutrin (Oral) (Bupropion Hcl)
   Nausea/Vomiting
   Kaopectate (Oral) (Bismuth Subsalicylate)
   Loss of banalce
   Last dose of Antibiotics:
   Ceftriaxone - [**2187-6-20**] 08:38 AM
   Cefipime - [**2187-6-20**] 10:57 AM
   Infusions:
   Heparin Sodium - 900 units/hour
   Other ICU medications:
   Metoprolol - [**2187-6-20**] 02:09 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-6-21**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.5
C (103.1
   Tcurrent: 38.9
C (102.1
   HR: 73 (63 - 78) bpm
   BP: 152/42(69) {139/42(67) - 185/85(104)} mmHg
   RR: 25 (17 - 40) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,213 mL
                                                                    337 mL
   PO:
                                                                    840 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    373 mL
                                                                     97 mL
   Blood products:
   Total out:
                                                                  1,860 mL
                                                                    190 mL
   Urine:
                                                                  1,860 mL
                                                                    190 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -647 mL
                                                                    147 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG:
   Physical Examination
   Gen: A&Ox3, sleepy but arousable.
   Neck: JVP at angle of the jaw.
   Lungs: crackles bilat mid-lung zones,+ accessory muscle use
   CV:  RRR, S1 & S2 nl, + systolic murmur
   ABD: +bs, soft, nt, nd, no masses
   Ext: warm, dry, brisk cap refill
   Labs / Radiology
   293 K/uL
   6.8 g/dL
   110 mg/dL
   1.8 mg/dL
   21 mEq/L
   3.5 mEq/L
   33 mg/dL
   104 mEq/L
   138 mEq/L
   21.9 %
   13.3 K/uL
        [image002.jpg]
                             [**2187-6-20**]  04:48 AM
                             [**2187-6-20**]  09:34 AM
                             [**2187-6-21**]  04:56 AM
   WBC
   16.8
   13.3
   Hct
   22.4
   26.2
   21.9
   Plt
   295
   293
   Cr
   1.6
   1.8
   TropT
   0.02
   Glucose
   134
   110
   Other labs: PT / PTT / INR:19.0/64.1/1.8,
   CK / CKMB / Troponin-T:13/2/0.02,
   Differential-Neuts:88.9 %, Lymph:7.2 %, Mono:3.7 %, Eos:0.1 %,
   Ca++:7.4 mg/dL, Mg++:1.6 mg/dL, PO4:4.2 mg/dL
   Imaging:
   CXR ([**2187-6-21**])
   Looks worse than yesterday with new loss of right hemidiaphragm.
   increasing opacities on right and left bilat
   CXR [**2187-6-20**]
   The cardiomediastinal silhouette is unchanged. The
   moderate-sized left-sided pleural effusion and left lower lobe opacity
   representing atelectasis or pneumonia has mildly increased in size. The
   degree of volume overload is unchanged. There is small right-sided
   pleural
   effusion.
   Microbiology: Blood 7/8 - GNR
   Blood cx
 pending
   urine cx
 E. coli +
   Assessment and Plan
   85yo woman with hx of recent bilat PE, refractory HTN, DM, CKD here
   with worsening DOE.
   .
   # Hypoxia/dyspnea: ddx includes pneumonia (possible given elevated WBC
   and fever), CHF (likely diastolic dysfunction particularly with
   increased BP), PE (subtherapeutic on coumadin), Cardiac ischemic
   (unlikely given lack of CP or acute precipitant).  Felt to be most
   likely a combination of PNA and CHF.   Acute increase in fluid in chest
   overnight possible due to systemic inflammatory response secondary to
   PNA or GNR bacteremia.
   - treat for possible PNA with levaquin and ceftriaxone and vanco since
   NH resident.
   - treat for diastolic dysfunction with better BP and fluid status.  see
   below for details
   - treat for PE with heparin gtt overnight and coumadin.
   - obtain sputum cx.
   - consider thoracocentesis
 discuss with patient and family for
   possible comfort of patient.  Especially if resp status continues to
   worsen.  Patient dose not wish to be intubated.
   .
   # dCHF: Recent echo with documented increased filling pressures.  This
   may have been in setting of her PE.  However, has longstanding
   hypertension and symmetric LVH.  Appears overloaded on exam today.
   - Continue Lasix 20-40 mg IV PRN with a goal of 500mL neg.
 monitor
   BP and UOP.
   - Rate control with metoprolol 50 PO BID  and afterload reduce w
   captopril (now at 75 PO TID) - but will use lower than normal dose
   given possible infection.  Patient
s medications may need to be
   adjusted for diuresis.
   - hold amlodipine for now
   - Patient also on clonidine.
   - consider repeat echo if does not improve
   - check BNP from admit labs
   .
   # ID: Patient
s urine is + for E coli.  [**Month (only) 60**] also have PNA.  She has
   evidence of GNR in blood.  no evidence of meningismal signs.  No
   increased stool (although dose have hx cdiff), abd is benign.
   - Should cover broadly for infectious source for now.
   - levaquin for UTI and atypical/GNR/strep coverage
   - ceftriaxone for GNR, strep.
   - Add vanco (for hx of enterococcal UTIs) given elevated WBC and temp
   - continue PO vanco for cdiff suppression while on other meds
   - check urine legionella antigen given fever, wbc
   .
   # Cards vessels: no clear new ischemic pattern on EKG.  However, w dCHF
   will check CE
   - continue BB, statin
   - ? why not ASA
   - cycle CE
   .
   # Cards rhythm: reportedly with hx of MAT.  currently in sinus
   - BB and amio
   .
   # hx PE: subtherapeutic on INR.  Possible that this acute exacerbation
   is from worsening PE.  Will start heparin gtt tonight and continue
   coumadin.
 will hold coumadin for possible thoracocentesis later
   today.   Will hold hep gtt peri-procedure if it is decided to go ahead
   with procedure.
   .
   # HTN: difficult to control per recent d/c summaries.  For now, will
   aim for good control given likely dCHF component.  However, will tread
   carefully given elevated temp and possible infectious source.
   - cont metop 50 [**Hospital1 **] (down from 150 TID) in am
   - cont captopril 75 TID (down from 100 TID) in am
   - on clonidine
   - consider nitro gtt for easy titration if BP diff to control
   .
   # CKD: at baseline renal dysfunction.  Monitor meds and fluid status
   .
   # DMII: HISS and lantus for now.
   .
   # Hypothyroidism - levothyroxine
   .
   # Depression/Bipolar - celexa, risperdal, check lithium level in am
   then restart if appropriate
   .
   # Comm: HCP is son, [**Name (NI) 297**] [**Name (NI) 3537**] at [**Telephone/Fax (1) 3536**].  [**Location (un) 109**] NH
   [**Telephone/Fax (1) 3538**].  Plan to have family discussion re: goals of care today.
   .
   # Code: HCP and patient confirms DNR DNI
   .
   # Access: 2 PIVs
   .
   # Proph: heparin gtt, ppi, bowel regimen
   .
   # FEN: cards diet with ensure
   # Dispo: ICU for now especially given worsening dyspnea.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2187-6-20**] 01:28 AM
   20 Gauge - [**2187-6-20**] 02:23 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2187-06-22 07:03:00 Physician Resident Progress Note
Chief Complaint: dyspnea.
   24 Hour Events:
 THORACENTESIS - At [**2187-6-21**] 04:03 PM
   It revealed straw colored fluid.  Gram stain negative. Transudate by
   Light
s criteria
   --Patient was found to have a resistant strain of E coli in her urine
   and she was switched to meropenum.
   --She had a Hct drop for unknown reasons and was transfused one unit of
   PRBCs --- Hct went from 23.3->23.7 after one unit.  It is stable this
   morning.  Her lovenox and coumadin were held
   --Monitoring creatinine and giving gentle diuresis.  Increased to 2.0
   last night back down today.
   Subjective: Patient reports feeling much better.  She was very thirsty
   yesterday and feels less thirsty today.  She denies CP/SOB/F/C.
   Allergies:
   Wellbutrin (Oral) (Bupropion Hcl)
   Nausea/Vomiting
   Kaopectate (Oral) (Bismuth Subsalicylate)
   Loss of banalce
   Last dose of Antibiotics:
   Ceftriaxone - [**2187-6-20**] 08:38 AM
   Cefipime - [**2187-6-21**] 10:26 AM
   Meropenem - [**2187-6-22**] 04:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2187-6-21**] 07:13 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-6-22**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 62 (60 - 72) bpm
   BP: 150/45(73) {112/33(60) - 152/109(116)} mmHg
   RR: 19 (14 - 27) insp/min
   SpO2: 98%  3L
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,487 mL
                                                                    168 mL
   PO:
                                                                    800 mL
             TF:
   IVF:
                                                                    413 mL
                                                                    168 mL
   Blood products:
                                                                    274 mL
   Total out:
                                                                  1,335 mL
                                                                    223 mL
   Urine:
                                                                  1,335 mL
                                                                    223 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    152 mL
                                                                    -55 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula 3L
   SpO2: 98%
   ABG: ///23/
   Physical Examination
   Gen: Pt appears to be breathing more comfortably.  Talking without SOB
   Lungs: Crackles from mid
 upper lung zones bilat
   CV: RRR, s1 & s2 nl, no m/r/g.  JVP at 9 cm
   Abd: + bs, nt, nd, soft, no masses
   Ext: warm, dry, 2+ radial pulses.
   Labs / Radiology
   292 K/uL
   7.7 g/dL
   92 mg/dL
   1.8 mg/dL
   23 mEq/L
   4.0 mEq/L
   37 mg/dL
   110 mEq/L
   142 mEq/L
   23.7 %
   10.3 K/uL
        [image002.jpg]
                             [**2187-6-20**]  04:48 AM
                             [**2187-6-20**]  09:34 AM
                             [**2187-6-21**]  04:56 AM
                             [**2187-6-21**]  02:13 PM
                             [**2187-6-21**]  11:04 PM
                             [**2187-6-22**]  03:47 AM
   WBC
   16.8
   13.3
   11.4
   10.9
   10.3
   Hct
   22.4
   26.2
   21.9
   23.3
   23.3
   23.7
   Plt
   295
   293
   307
   289
   292
   Cr
   1.6
   1.8
   2.0
   1.9
   1.8
   TropT
   0.02
   Glucose
   134
   110
   91
   94
   92
   Other labs: PT / PTT / INR:18.9/28.1/1.8,
   CK / CKMB / Troponin-T:13/2/0.02,
   Differential-Neuts:88.9 %, Lymph:7.2 %, Mono:3.7 %, Eos:0.1 %,
   Albumin:2.8 g/dL, LDH:227 IU/L, Total protein 4.9
   Ca++:7.5 mg/dL, Mg++:2.5 mg/dL, PO4:4.1 mg/dL
   Pleural fluid:   pH 7.55
   PLEURAL ANALYSIS
                                     WBC
                                     RBC
                                   Hct,Fl
                                    Polys
                                   Lymphs
                                    Monos
                                    Macro
   [1][**2187-6-21**] 04:04PM
                                    565*
                                    1830*
                                LESS THAN [1]
                                     44*
                                     20*
                                     22*
                                     14*
   PLEURAL CHEMISTRY
                                   TotProt
                                   Glucose
                                   LD(LDH)
                                   Albumin
                                   Cholest
   [2][**2187-6-21**] 04:04PM
                                     1.2
                                     99
                                     73
                                LESS THAN [1]
                                     10
   Micro:
   Blood cx  [**6-19**]
 GNR sensitive only to meropenum,
   Blood cx [**6-21**] pendiing.
   Urine Cx
 Ecoli. No [**Last Name (un) **].
   CXR [**6-22**] compared to CXR [**6-21**] in am. The right hemidiaphrapm is seen.
   And decreased fluid bilat.
   Assessment and Plan
   85yo woman with hx of recent bilat PE, refractory HTN, DM, CKD here
   with worsening DOE.
   .
   # Hypoxia/dyspnea:  most likely due to CHF given data from
   thoracocentesis.  Shelikely diastolic dysfunction particularly with
   increased BP.  Her recent PE may be playing a role as well.
   (subtherapeutic on coumadin),
   - treat for diastolic dysfunction with better BP and fluid status.  see
   below for details
   - Heparin gtt and coumadin held overnight due to Hct drop
 will
   restart today.
   - obtain sputum cx. .
   # dCHF: Recent echo with documented increased filling pressures.  This
   may have been in setting of her PE.  However, has longstanding
   hypertension and symmetric LVH.  Appears overloaded on exam today.
   - Continue Lasix 20-40 mg IV PRN with a goal of 500mL neg.
 monitor
   BP and UOP.
   - Rate control with metoprolol 50 PO BID  and afterload reduce w
   captopril (now at 75 PO TID) - but will use lower than normal dose
   given possible infection.  Patient
s medications may need to be
   adjusted for diuresis.
   - hold amlodipine for now
   - Patient also on clonidine.
   - consider repeat echo if does not improve
   - check BNP from admit labs
   # ID: Patient
s urine is + for E coli ([**Last Name (un) **] pending).  She has evidence
   of GNR (not speciated) in blood (resistant to everything but
   meropenum).  Likely to be the same organism, but if not PNA is another
   possible source.
   - follow up on cxs.
   - All previous abx were d/c
 meropenum started.
   - continue PO vanco for cdiff suppression while on other meds
   - check urine legionella antigen
 pending.
   .
   # Cards vessels: no clear new ischemic pattern on EKG.  However, w dCHF
   will check CE
   - continue BB, statin
   - ? why not ASA
   - cycle CE
   # Cards rhythm: reportedly with hx of MAT.  currently in sinus
   - BB and amiodarone
   .
   # hx PE: subtherapeutic on INR.
   -Will restart heparin gtt tonight and continue coumadin.
   .
   # HTN: difficult to control per recent d/c summaries.  For now, will
   aim for good control given likely dCHF component.  However, will tread
   carefully given elevated temp and possible infectious source.
   - cont metop 50 [**Hospital1 **] (down from 150 TID) in am
   - cont captopril 75 TID (down from 100 TID) in am
   - on clonidine
   - holding amlodipine.
   - consider nitro gtt for easy titration if BP diff to control
   .
   # CKD: at baseline renal dysfunction.  Monitor meds and fluid status
   .
   # DM Type II: HISS and lantus for now.  Holding for now due to
   relatively normal BS on fingersticks.
   .
   # Hypothyroidism - levothyroxine
   .
   # Depression/Bipolar - celexa, risperdal, check lithium level in am
   then restart if appropriate
   .
   # Comm: HCP is son, [**Name (NI) 297**] [**Name (NI) 3537**] at [**Telephone/Fax (1) 3536**].  [**Location (un) 109**] NH
   [**Telephone/Fax (1) 3538**].  Will talk to PCP [**Name Initial (PRE) 1645**].
   .
   # Code: HCP and patient confirms DNR DNI
   .
   # Access: 2 PIVs
   .
   # Proph: heparin gtt, ppi, bowel regimen
   .
   # FEN: cards diet with ensure
   # Dispo: transfer to floor.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2187-6-20**] 01:28 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22);